US06440968B1
2-Phenyl-6,7,10,12,15,16-hexahydroxy-8-methoxy-11-methyl-9,14-dioxo-6,7,9,14-tetrahydronaphthaceno[1,2-g]phthalazin-1-one (14)
A solution of 100 mg (0.13 mmol) of the resulting intermediate 2-phenyl-10,12,15,16-tetraacetoxy-6,7-dihydroxy-8-methoxy-11-methyl-9,14-dioxo-9,14-dihydronaphthaceno[1,2-g]phthalazin-1-one in 2 m of N,N-dimethylformamide is mixed, while cooling in ice, with 2 m of 1 M potassium hydroxide solution and stirred at room temperature for 2 h. The product is precipitated as a red solid (60 mg) by acidification with aqueous citric acid. The yield is 77% of theory.

reactant | 2-phenyl-10,12,15,16-tetraacetoxy-6,7-dihydroxy-8-methoxy-11-methyl-9,14-dioxo-9,14-dihydronaphthaceno[1,2-g]phthalazin-1-one | C1(=CC=CC=C1)N1N=CC=2C=C3C(=C(C2C1=O)OC(C)=O)C1=C(C=2C(C4=CC(=C(C(=C4C(C2C(=C1C(=C3O)O)OC)=O)OC(C)=O)C)OC(C)=O)=O)OC(C)=O | C40H28N2O14
reactant | potassium hydroxide | 1 M | [OH-].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Phenyl-6,7,10,12,15,16-hexahydroxy-8-methoxy-11-methyl-9,14-dioxo-6,7,9,14-tetrahydronaphthaceno[1,2-g]phthalazin-1-one | C1(=CC=CC=C1)N1N=CC=2C=C3C(=C(C2C1=O)O)C1=C(C=2C(C4=CC(=C(C(=C4C(C2C(=C1C(C3O)O)OC)=O)O)C)O)=O)O | C32H22N2O10
